Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4]#[C:5],5.6197943089
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],3.0583746839
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.47185934478
[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10]1>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])[H:9])=[O:10],0.935281590771
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8][H:9],4.782005545400001
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9],-2.36441941252
[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.10074469036
[H:13].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.64142375041
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.0353914554098
[C:4]([H:5])#[C:6][C:7][O:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9],-3.50671485686
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11])=[C:12]([H:13])[H:14],1.96111691777
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1],2.98721520046
[C:3](\[H:4])(=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.76349822769
[H:1][C:2]([H:3])([O:4][C:5]([H:6])[H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.49409931
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.67562197273
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.29157270923
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],4.53959553759
[C:7]([H:9])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:8]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.48229642931
[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9],-2.38203690146
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-8.085597528200001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.166041196009999
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8][H:9],5.19944788626
[H:3][C:4]=[O:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.27473892576
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:13]([C:10]([C:8](=[C:5]([H:6])[H:7])[H:9])([H:11])[H:12])([H:14])[H:15],0.8074891979500001
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.390061269419999
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.78838522651
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:11]([H:12])[H:13],4.84578673774
[C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.86230710659
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],3.9945508135300023
